US09376442B2
Ethyl {trans-4-[({4-[2-(cyclopropylmethoxy)-4-fluoro-5-methoxyphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-7-yl}carbonyl)amino]cyclohexyl}carbamate
Starting from N-(trans-4-aminocyclohexyl)-4-[2-(cyclopropylmethoxy)-4-fluoro-5-methoxyphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f36) and commercially available ethyl chloroformate the title compound is obtained as colorless solid.

reactant | N-(trans-4-aminocyclohexyl)-4-[2-(cyclopropylmethoxy)-4-fluoro-5-methoxyphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.N[C@@H]1CC[C@H](CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=C(C(=C2)OC)F)OCC2CC2)C
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | Ethyl {trans-4-[({4-[2-(cyclopropylmethoxy)-4-fluoro-5-methoxyphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-7-yl}carbonyl)amino]cyclohexyl}carbamate | C1(CC1)COC1=C(C=C(C(=C1)F)OC)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@@H]2CC[C@H](CC2)NC(OCC)=O | C28H34FN5O5
